US06627651B1
To a mixture of magnesium (0.83 g) and THF (30 ml) was added 1,2-dibromoethane (0.1 ml) at room temperature and subsequently was added dropwise a solution of 2-bromobenzyl propyl ether (7.88 g) in THF (40 ml) at 60° C. over a period of 30 minutes, under an argon atmosphere. After the dropwise addition, the resulting mixture was stirred further at 60° C. for 2 hours and was then cooled to −78° C., and a solution of trimethylboric acid (12 ml) in THF (24 ml) was added dropwise. The resulting mixture was stirred at 78° C. for one hour and then at room temperature for 10 hours. To the reaction mixture was added 1 N hydrochloric acid (100 ml), and the resulting mixture was stirred for 30 minutes and was then extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with hexane to obtain 2-propoxymethylphenylboric acid (2.95 g) as colorless crystals.

reactant | magnesium | 0.83 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.1 ml | BrCCBr | C2H4Br2
reactant | 2-bromobenzyl propyl ether | 7.88 g | C(CC)OCC1=C(C=CC=C1)Br | C10H13BrO
reactant | trimethylboric acid | 12 ml | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-propoxymethylphenylboric acid | 2.95 g | C(CC)OCC1=C(C=CC=C1)OB(O)O | C10H15BO4
